US06159901
Production of 5-methoxy-6-[3-(trifluoromethyl)phenoxy] picolinic acid (compound No. VI-10)
5-methoxy-6-[3-(trifluoromethyl)phenoxy] picolinic acid picolinic acid methyl ester (0.7 g, 0.0021 mol) was dissolved in 2.8 ml of ethyl alcohol. One milliliter of an aqueous solution of sodium hydroxide (0.102 g, 0.0021×1.2 mol) was added to the obtained solution. The resultant mixture was heated and stirred at 70° C. for 1.5 hours. After cooling, the obtained reaction solution was mixed with 2 ml of concentrated hydrochloric acid, thereby precipitating solids. The precipitated solids were filtered out from the solution, washed with water and then dried.

reactant | 5-methoxy-6-[3-(trifluoromethyl)phenoxy] picolinic acid picolinic acid methyl ester | 0.0021 mol, 0.7 g | COC(C1=NC=CC=C1)=O.COC=1C=CC(=NC1OC1=CC(=CC=C1)C(F)(F)F)C(=O)O
reactant | sodium hydroxide | 1.2 mol, 0.102 g | [OH-].[Na+]
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | ethyl alcohol | 2.8 ml | C(C)O | C2H6O
product | 5-methoxy-6-[3-(trifluoromethyl)phenoxy] picolinic acid | COC=1C=CC(=NC1OC1=CC(=CC=C1)C(F)(F)F)C(=O)O | C14H10F3NO4
